US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(5-fluoro-2-methylphenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride (E46)
HCl salt made according to method described in Example 41 starting from 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(5-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E45, 11.5 mg) to afford a pale yellow solid

reactant | HCl | Cl | ClH
reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(5-fluoro-2-methylphenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | 11.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC(=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H35F7N4O3
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(5-fluoro-2-methylphenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC(=C1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | InChI=1S/C33H35F7N4O3.ClH/c1-19-5-6-23(34)12-26(19)27-13-29(44-16-25-18-47-8-7-43(25)15-24(44)17-45)41-14-28(27)42(4)30(46)31(2,3)20-9-21(32(35,36)37)11-22(10-20)33(38,39)40;/h5-6,9-14,24-25,45H,7-8,15-18H2,1-4H3;1H/t24-,25-;/m0./s1
